US05436264
Proceeding as in Example 3, but replacing 2-(cyclopropylmethyloxy)phenoxyethyl methanesulfonate with 2-[2-(prop-2-yloxy)phenoxy]ethyl methanesulfonate and [2- (5-chloro-1H-indol-3-yl)-1,1-dimethylethyl]amine with [2-(1H-indol-3-yl)-1,1-dimethylethyl]amine, gave [2-(1H-indol-3-yl)-1,1-dimethylethyl]{2- [2-(prop-2-yloxy)phenoxy]ethyl}amine hydrochloride, m.p. 164°-166° C.

reactant | 2-[2-(prop-2-yloxy)phenoxy]ethyl methanesulfonate | CS(=O)(=O)OCCOC1=C(C=CC=C1)OC(C)C | C12H18O5S
reactant | [2- (5-chloro-1H-indol-3-yl)-1,1-dimethylethyl]amine | ClC=1C=C2C(=CNC2=CC1)CC(C)(C)N | C12H15ClN2
reactant | [2-(1H-indol-3-yl)-1,1-dimethylethyl]amine | N1C=C(C2=CC=CC=C12)CC(C)(C)N | C12H16N2
product | [2-(1H-indol-3-yl)-1,1-dimethylethyl]{2- [2-(prop-2-yloxy)phenoxy]ethyl}amine hydrochloride | Cl.N1C=C(C2=CC=CC=C12)CC(C)(C)NCCOC1=C(C=CC=C1)OC(C)C | InChI=1S/C23H30N2O2.ClH/c1-17(2)27-22-12-8-7-11-21(22)26-14-13-25-23(3,4)15-18-16-24-20-10-6-5-9-19(18)20;/h5-12,16-17,24-25H,13-15H2,1-4H3;1H
